US07105551B2
2-methyl-2-(2-methyl-4-{1-[4-methyl-2-(3-Fluoro-4-trifluoromethylphenyl)-thiazol-5-yl]ethoxy}-phenoxy)-propionic acid ethyl ester
(S)-2-methyl-2-(2-methyl-4-{1-[4-methyl-2-(4-trifluoromethylphenyl)-thiazol-5-yl]ethoxy}-phenoxy)-propionic acid ethyl ester p1 (R)-2-methyl-2-(2-methyl-4-{1-[4-methyl-2-(4-trifluoromethylphenyl)-thiazol-5-yl]ethoxy}-phenoxy)-propionic acid ethyl ester

reactant | (S)-2-methyl-2-(2-methyl-4-{1-[4-methyl-2-(4-trifluoromethylphenyl)-thiazol-5-yl]ethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)O[C@@H](C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C26H28F3NO4S
reactant | (R)-2-methyl-2-(2-methyl-4-{1-[4-methyl-2-(4-trifluoromethylphenyl)-thiazol-5-yl]ethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)O[C@H](C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C26H28F3NO4S
product | 2-methyl-2-(2-methyl-4-{1-[4-methyl-2-(3-Fluoro-4-trifluoromethylphenyl)-thiazol-5-yl]ethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OC(C)C1=C(N=C(S1)C1=CC(=C(C=C1)C(F)(F)F)F)C)C)C)=O | C26H27F4NO4S
